US08497264B2
In a 250-mL flask, the (S)-tert-butyl 2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-7′-hydroxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-5-ylcarbamate (0.768 g, 1.592 mmol) was dissolved in DCM (25 mL). The solution was cooled to 0° C. TEA (0.533 mL, 3.85 mmol) was added, followed by 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (1.25 g, 3.50 mmol). After 2 h, the reaction was concentrated. Without working it up, the residue was purified by chromatography (25% EtOAc/hexanes) to afford (S)-5-(tert-butoxycarbonylamino)-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-7′-yl trifluoromethanesulfonate (436 mg, 0.709 mmol).

reactant | (S)-tert-butyl 2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-7′-hydroxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-5-ylcarbamate | 1.592 mmol, 0.768 g | O1CC(=CCC1)C1=CC=2[C@@]3(C4=CC(=CC=C4OC2C(=C1)F)O)COCC(=N3)NC(OC(C)(C)C)=O | C26H27FN2O6
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 3.50 mmol, 1.25 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | (S)-5-(tert-butoxycarbonylamino)-2′-(5,6-dihydro-2H-pyran-3-yl)-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-7′-yl trifluoromethanesulfonate | 0.709 mmol, 436 mg | FC(S(=O)(=O)OC1=CC=C2OC=3C(=CC(=CC3[C@@]3(C2=C1)COCC(=N3)NC(=O)OC(C)(C)C)C=3COCCC3)F)(F)F | C27H26F4N2O8S
